US06451821B1
The process is performed as in Example 2, starting with 7.4 g of ethyl (2R)-2-amino-6-{[(benzyloxy)carbonyl]-amino}hexanoate with 5 cm3 of tert-butyl isothiocyanate in 200 cm3 of anhydrous ethanol at a temperature in the region of 20° C. for 20 hours. The reaction is completed by addition of a further 1 cm3 of isothiocyanate and heating for 2 hours at a temperature in the region of 80° C. The reaction medium is concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained is taken up in ether and concentrated again under the above conditions. 13 g of ethyl (2R)-6-{[(benzyloxy)carbonyl]amino}-2-{[(tert-butylamino)carbothioyl]amino}hexanoate are obtained in the form of a colorless oil. (αD20=−12.5±0.5 at a concentration of 0.5% in methanol).

reactant | ethyl (2R)-2-amino-6-{[(benzyloxy)carbonyl]-amino}hexanoate | 7.4 g | N[C@@H](C(=O)OCC)CCCCNC(=O)OCC1=CC=CC=C1 | C16H24N2O4
reactant | tert-butyl isothiocyanate | 5 cm3 | C(C)(C)(C)N=C=S | C5H9NS
reactant | isothiocyanate | 1 cm3 | [N-]=C=S
solvent | ethanol | 200 cm3 | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | ethyl (2R)-6-{[(benzyloxy)carbonyl]amino}-2-{[(tert-butylamino)carbothioyl]amino}hexanoate | 13 g | C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](C(=O)OCC)NC(=S)NC(C)(C)C | C21H33N3O4S
